US07112697B1
In a similar manner, the cross-coupling reaction between aryl iodides and phenyl selenol was initially investigated using 10 mol % CuI/neocuproine with NaOt-Bu as the base and toluene as the solvent. Using this protocol, in 24 h, the reaction between iodobenzene and phenyl selenol was complete. If in the reaction protocol neocuproine was replaced by phenanthroline, diphenyl selenide was obtained in a lower yield (70% by GC). Moreover, the reaction with the well-defined complex Cu-(neocuproine)(PPh3)Br showed complete conversion to the product after the same period of time. Use of CuI/neocuproine as catalyst, instead of the well-defined Cu(neocuproine)(PPh3)Br, dispenses with the need to synthesize the complex and the results are comparable. The effect of the base on such reactions (see Table 4).

reactant | phenyl selenol | C1(=CC=CC=C1)[SeH] | C6H6Se
reactant | NaOt-Bu | CC(C)(C)[O-].[Na+]
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
reactant | neocuproine | CC=1C=CC=2C=CC=3C=CC(=NC3C2N1)C | C14H12N2
reactant | phenanthroline | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
catalyst | CuI neocuproine | [Cu]I.CC=1C=CC=2C=CC=3C=CC(=NC3C2N1)C
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | diphenyl selenide | C1(=CC=CC=C1)[Se]C1=CC=CC=C1 | C12H10Se
